US08614215B2
Intermediate 45: 4-(3-methoxy-5-nitrobenzoyl)morpholine
3-nitro-5-methoxybenzoic acid (900 mg; 4.57 mmol; 1 eq; commercially available IMPAMEX) is dissolved in THF (5 mL) at room temperature. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.05 g; 5.48 mmol; 1.2 eq) and 1-hydroxybenzotriazole hydrate (987 mg; 7.3 mmol; 1.6 eq) are added in DCM (20 mL). The reaction mixture is stirred at room temperature for 25 min before adding morpholine (795.44 mg; 9.13 mmol; 2 eq). After 3 h, the reaction mixture is quenched with water and the organic phase recovered and washed with citric acid (5%). The aqueous phase is extracted with DCM. The organic phase is dried over MgSO4, and the solvent is evaporated under reduced pressure to afford 1.2 g (99%) as a yellow solid. The next step is carried out directly on the crude material. LC/MS: (ES+): 267.3; (ES−): 265.3.

reactant | 3-nitro-5-methoxybenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)OC | C8H7NO5
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.48 mmol, 1.05 g, 1.2 eq | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 7.3 mmol, 987 mg, 1.6 eq | O.ON1N=NC2=C1C=CC=C2
reactant | morpholine | 9.13 mmol, 795.44 mg, 2 eq | N1CCOCC1 | C4H9NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-methoxy-5-nitrobenzoyl)morpholine | COC=1C=C(C(=O)N2CCOCC2)C=C(C1)[N+](=O)[O-] | C12H14N2O5
